US05753664
2-[4-(4-Fluorobenzoyl)benzyl]thio-6-methylthiazolo[4,5-d]pyridazin-7(6H)-one
In DMF (10 ml) was dissolved 5-amino-4-chloro-2-methyl-3(2H)-pyridazinone (638 mg) followed by addition of 60% sodium hydride (384 mg), and the mixture was stirred at room temperature for 10 minutes. Then, carbon disulfide (365 mg) was added and the mixture was further stirred at 80° C. for 1 hour. Thereafter, 4-(4-fluorobenzoyl)benzyl bromide (1.4 g) was added and the mixture was stirred at room temperature for 1 hour. This reaction mixture was extracted with ethyl acetate-THF and the organic layer was washed serially with water and saturated aqueous NaCl solution, dried over anhydrous magnesium sulfate, and concentrated. The residue was purified by silica gel chromatography (hexane: ethyl acetate =1:1) to provide 1.2 g of white powder.

reactant | 5-amino-4-chloro-2-methyl-3(2H)-pyridazinone | 638 mg | NC1=C(C(N(N=C1)C)=O)Cl | C5H6ClN3O
reactant | sodium hydride | 384 mg | [H-].[Na+]
reactant | carbon disulfide | 365 mg | C(=S)=S | CS2
reactant | 4-(4-fluorobenzoyl)benzyl bromide | 1.4 g | FC1=CC=C(C(=O)C2=CC=C(CBr)C=C2)C=C1 | C14H10BrFO
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 2-[4-(4-Fluorobenzoyl)benzyl]thio-6-methylthiazolo[4,5-d]pyridazin-7(6H)-one | 1.2 g | FC1=CC=C(C(=O)C2=CC=C(CSC=3SC4=C(C=NN(C4=O)C)N3)C=C2)C=C1 | C20H14FN3O2S2
